US05541349
1. Preparation of 5,5-dimethyl- 1,3-cyclohexadiene/3,3-dimethyl- 1,4-cyclohexadiene isomeric mixture
To 14.0 g (0.111 mol) of potassium t-amylate (KOC(CH3)2C2H5) in 200 mL of pentane was added 44.4 mL of 2.5M (0.111 mol) butyl lithium in hexane with formation of a small amount of brownish insoluble material. To this was added 12.0 (0.111 mol) of the dimethylcyclohexadiene isomeric mixture. A bright orange product resulted. After stirring overnight, the color became brownish orange. The product was filtered, washed several times with pentane, then dried under reduced pressure. The yield of orange powder was 11.8 g, 72.7 percent.

reactant | butyl lithium | 0.111 mol, 2.5M | C(CCC)[Li]
reactant | dimethylcyclohexadiene | CC1=C(CCC=C1)C | C8H12
solvent | pentane | 200 mL | CCCCC | C5H12
solvent | hexane | CCCCCC | C6H14
product | 5,5-dimethyl- 1,3-cyclohexadiene 3,3-dimethyl- 1,4-cyclohexadiene | CC1(C=CC=CC1)C.CC1(C=CCC=C1)C | 2C8H12
